Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.91953095462
[C:1].[C:2]([H:3])([H:4])[O:5][C:6][O:7][H:8]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][H:8],-3.9320505
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2],5.016988603730001
[H:1].[O:2][O:3][H:4]>>[H:1][O:2][O:3][H:4],-3.78896898091
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.57529931035
[C:10]#[C:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-5.583725901039998
[H:1][O:2][C:3]1=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14]>>[C:3]1[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14].[H:1][O:2],6.285141854330001
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],0.82841483406
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][O:10][H:11]>>[C:5]([H:6])=[C:7]([H:8])[O:9][O:10][H:11].[H:1][C:2]#[C:3][H:4],2.27516093683
[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],-6.41650293614
[H:1][O:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],3.67100664695
[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[O:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],-0.921788742009
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5]1\[O:6][C:7]1([H:8])[H:9],-2.38446125176
[H:5].[O:1]=[C:2]=[C:3]([O:4])[C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-3.1207623229
[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-1.01791279329
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.29925583594
[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[H:1].[O:2]=[C:3]([H:4])[O:5][H:6],0.8558960872079999
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],2.39175829945
[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.88304505025
[H:1][O:2][C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4],2.59714710788
[H:1][C:2][O:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2][O:3][C:4]=[C:11]([H:12])[H:13],6.07692276364
[H:1][C:2]#[C:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.8224072076
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],4.46556592374
[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]=[C:2]([H:3])[H:4].[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],2.71878286007
[C:4][H:5].[H:1][C:3]([C:2])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-10.609720988400001
[H:1][O:2][C@:3]([H:4])([C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][O:2][C@:3]([H:4])([C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.85718812981
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.5839321138999998
[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1].[O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],3.94421964999
[C:1]#[C:2][O:3][C:4][H:5].[H:6]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6],-4.960913118590001
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:9][H:10].[H:8],1.86604921039
